US07087626B2
(6-Methyl-pyridin-2-yl)-propinoic acid ethyl ester
A solution of 2-ethynyl-6-methyl-pyridine (0.5 g, 4.3 mmol) in tetrahydrofuran (20 mL) is cooled to −78° C. and treated with 1.6 M N-butyllithium in hexanes (2.9 mL, 4.7 mmol) and stirred for 0.5 h. This solution is then treated with ethyl chloroformate (2.85 mL, 30 mmol) and stirred for 3 h while the solution warms to room temperature. The reaction is quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The solvent is removed to yield 0.67 g (83%) of desired product as a light yellow oil.

reactant | 2-ethynyl-6-methyl-pyridine | 4.3 mmol, 0.5 g | C(#C)C1=NC(=CC=C1)C | C8H7N
reactant | N-butyllithium | 1.6 M | [Li+].CCC[CH2-]
reactant | ethyl chloroformate | 30 mmol, 2.85 mL | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (6-Methyl-pyridin-2-yl)-propinoic acid ethyl ester | 0.67 g, 83% | C(C)OC(C#CC1=NC(=CC=C1)C)=O | C11H11NO2
